US06350892B1
Methyl [4-(3-methanesulfonyloxypropyl)phenoxy]acetate
A solution of methyl [4-(3-hydroxypropyl)phenoxy]acetate (4.5 g, 20.5 mmol) in dichloromethane (50 ml) was treated at 0° C. with triethylamine (4.36 g, 43.1 mmol) followed by methanesulfonyl chloride (3.99 g, 34.8 mmol) added dropwise over 5 min. After 30 min at 0° C., the reaction mixture was diluted with dichloromethane, washed with 1N hydrochloric acid, water and dried over anhydrous sodium sulfate. Evaporation of the solvent and chromatography of the residue on silica gel (elution toluene-ethyl acetate, 8:18) gave 5.51 g (89%) of the title material as a white solid: mp 49-51° C.

reactant | methyl [4-(3-hydroxypropyl)phenoxy]acetate | 20.5 mmol, 4.5 g | OCCCC1=CC=C(OCC(=O)OC)C=C1 | C12H16O4
reactant | triethylamine | 43.1 mmol, 4.36 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 34.8 mmol, 3.99 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl [4-(3-methanesulfonyloxypropyl)phenoxy]acetate | 5.51 g, 89% | CS(=O)(=O)OCCCC1=CC=C(OCC(=O)OC)C=C1 | C13H18O6S
